US07132546B2
To 5 mL of a tetrahydrofuran solution comprising 300 mg of 4-(3-chloro-5-trifluoromethyl-2-pyridylmethyloxy)aniline and 120 mg of triethylamine, 5 mL of a tetrahydrofuran solution comprising 220 mg of 2-chloro-5-nitrobenzoylchloride was dropwise added, followed by stirring for about 30 minutes, and then water was added thereto, and the precipitated crystals were collected by filtration. The collected crystals were washed with water and then dried to obtain 380 mg of N-(4-(3-chloro-5-trifluoromethyl-2-pyridylmethyloxy)phenyl)-2-chloro-5-nitrobenzamide (Compound No. 135) having a melting point of from 193 to 195° C.

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 4-(3-chloro-5-trifluoromethyl-2-pyridylmethyloxy)aniline | 300 mg | ClC=1C(=NC=C(C1)C(F)(F)F)COC1=CC=C(N)C=C1 | C13H10ClF3N2O
reactant | triethylamine | 120 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 2-chloro-5-nitrobenzoylchloride | 220 mg | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | water | O | H2O
product | N-(4-(3-chloro-5-trifluoromethyl-2-pyridylmethyloxy)phenyl)-2-chloro-5-nitrobenzamide | 380 mg | ClC=1C(=NC=C(C1)C(F)(F)F)COC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C20H12Cl2F3N3O4
